US06858627B2
Synthesis of [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine
6-(2-Methoxyphenyl)-2,2-dimethyl-4-(2-methylbutylsulfanylmethyl)-1,2-dihydroquinoline 60 mg of 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline, 46 mg of potassium carbonate, and 27 μL of 2-methyl-1-butanethiol reacted to give 4 mg of the title compound as an oil.

reactant | 6-(2-Methoxyphenyl)-2,2-dimethyl-4-(2-methylbutylsulfanylmethyl)-1,2-dihydroquinoline | 60 mg | COC1=C(C=CC=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)CSCC(CC)C | C24H31NOS
reactant | 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | BrCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C19H20BrNO
reactant | potassium carbonate | 46 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methyl-1-butanethiol | 27 μL | CC(CS)CC | C5H12S
product | [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine | 4 mg | COC1=C(C=CC=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)CNC1=CC=CC=C1 | C25H26N2O
